US07994205B2
1-(1-benzothien-2-ylsulfonyl)-2-phenyl-1H-imidazole-4-carbaldehyde
To a solution of 2-phenyl-1H-imidazole-4-carbaldehyde (700 mg) in tetrahydrofuran (70 mL) was added sodium hydride (60% in oil, 244 mg), and the mixture was stirred for 30 min. 1-Benzothiophene-2-sulfonyl chloride (1.04 g) was added to the reaction mixture, and the mixture was stirred for 1.5 hr. Water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=7:3) to give the title compound as a colorless oil (yield 1.25 g, 83%).

reactant | 2-phenyl-1H-imidazole-4-carbaldehyde | 700 mg | C1(=CC=CC=C1)C=1NC=C(N1)C=O | C10H8N2O
reactant | sodium hydride | 244 mg | [H-].[Na+]
reactant | 1-Benzothiophene-2-sulfonyl chloride | 1.04 g | S1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO2S2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 1-(1-benzothien-2-ylsulfonyl)-2-phenyl-1H-imidazole-4-carbaldehyde | yield 1.25 g, 83% | S1C(=CC2=C1C=CC=C2)S(=O)(=O)N2C(=NC(=C2)C=O)C2=CC=CC=C2 | C18H12N2O3S2
